2151-03-07 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2151-3-6**] 04:00 PM
   c-diff spec
   - Code status: DNR, no CPR, pressors, or dialysis; intubate okay
   - Neurosurg recs: cont. decadron 4 mg Q6H; MRI when stable
   - ETT advanced
   - remained on insulin gtt while intubated, electrolytes corrected, CK
   peaked at 7858, now decreasing
   - guaiac positive
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Pruritis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-3-6**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-7**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 94 (94 - 111) bpm
   BP: 112/63(81) {104/57(75) - 132/68(92)} mmHg
   RR: 20 (20 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                 11,444 mL
                                                                  2,836 mL
   PO:
             TF:
   IVF:
                                                                  6,344 mL
                                                                  2,836 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                  1,115 mL
   Urine:
                                                                  2,175 mL
                                                                  1,115 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,269 mL
                                                                  1,721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 252 (252 - 252) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.38/31/156/19/-5
   Ve: 10.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   GEN: Intubated, sedated. Opens eyes to voice and tracks.
   HEENT: Pupils 3mm->2mm bilaterally. Anicteric
   CV: Regular. No murmurs.
   PULM: Anteriorly clear.
   ABD: Soft. No apparent tenderness.
   EXT: Warm. No edema.
   NEURO: Pupils as above. Withdraws all extremitites to noxious stimuli.
   Labs / Radiology
   138 K/uL
   10.9 g/dL
   191 mg/dL
   1.7 mg/dL
   19 mEq/L
   3.8 mEq/L
   33 mg/dL
   118 mEq/L
   147 mEq/L
   30.3 %
   19.1 K/uL
        [image002.jpg]
                             [**2151-3-6**]  01:38 PM
                             [**2151-3-6**]  01:49 PM
                             [**2151-3-6**]  04:01 PM
                             [**2151-3-6**]  04:06 PM
                             [**2151-3-6**]  07:40 PM
                             [**2151-3-6**]  07:59 PM
                             [**2151-3-6**]  11:45 PM
                             [**2151-3-6**]  11:56 PM
                             [**2151-3-7**]  03:10 AM
                             [**2151-3-7**]  03:28 AM
   WBC
   20.4
   19.1
   Hct
   32.5
   30.3
   Plt
   162
   138
   Cr
   2.0
   1.9
   1.8
   1.7
   1.7
   TropT
   0.02
   TCO2
   17
   18
   15
   14
   19
   Glucose
   [**Telephone/Fax (3) 5088**]90
   191
   Other labs: PT / PTT / INR:11.9/40.8/1.0, CK / CKMB /
   Troponin-T:6959/64/0.02, Lipase: 117, Lactic Acid:2.7 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL;  C. diff neg x 1.
   Assessment and Plan
   66F with history of lung cancer, now presenting with DKA/HHS and ARF
   after being found down.
   1. Altered mental status / Brain mets.  Unclear cause for initial
   altered mental status
 DKA/HHS vs fall vs brain edema/hemorrhage vs
   CVA.  Seen by neurosurgery; appreciate their recs.  Unclear to what
   extent her neurologic function will improve
   - Monitor neurologic exam; minimize sedation as tolerated
   - Decadron 4mg Q6H IV
   - consider 48H repeat head CT tomorrow
   - Palliative care consult tomorrow
   2. Metabolic acidosis / DKA/HHS.  Resolved.  Degree of hyperglycemia
   points more towards HHS though did have ketosis as well.  BS have
   improved to normal range and gap resolved.  Insulin gtt off and on
   overnight to control BS while NPO.
   - Continue insulin gtt for now and hold on long-acting as will not be
   starting TF in the short-term
   - K and other electrolyte repletion
   - recheck lytes this afternoon.
   .
   3. Acute renal failure.  Likely from volume depletion.  Has responded
   to IVF.  CK peaked at ~7800 and is now trending downward.  Received
   aggressive IVF resuscitation overnight to protect kidneys and is
   maintaining a good urine output with improvement in her creatinine.
   - Cont. Aggressive IVF (decrease from 250 -> 175 cc/hr; follow SCr)
   .
   4. Elevated lipase / pancreatitis.  Lipase >800 with CT showing some
   mesenteric stranding consistent with pancreatitis.  Unclear
   etiology for this but may have contributed to hyperglycemia.  Lipase
   down to ~100 at 3 am.
   - cont. to trend, expect to resolve
   - NPO/IVF as above
   .
   5. Elevated CK.  Not severe. Given negative trop, most likely due to
   immobility.
   - Monitor and aggressive IVF
   .
   6. Hypotension.  Was on levophed upon arrival to unit; but quickly
   weaned off.  Possibly related to sedation.
   - Try to use minimal sedation
   - IVF
   - Try to remain off pressors
   .
   7. Hypernatremia. Will use 1/2NS as IVF for now.
   .
   FEN: Aggressive IVF; NPO
   PPX: SC heparin
   ACCESS: Femoral line ([**3-6**]), A-line ([**3-6**]), and PIV x 2 ([**3-6**])
   CODE: DNR, no CPR, pressors, or dialysis.  Intubated
   Communication: Son
   Dispo: ICU for now.  Will see if patient becomes alert enough to
   consider extubation with goal of getting patient to hospice and having
   a little more time to spend with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-6**] 07:15 AM
   Multi Lumen - [**2151-3-6**] 07:15 AM
   20 Gauge - [**2151-3-6**] 07:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-03-07 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   code status discussion with HCP - DNR, ok for pressors, intubation
   remained on insulin drip
   CK peaked at 7858
   Guaiac positive
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Pruritis;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Dextrose 50% - [**2151-3-7**] 07:30 AM
   Pantoprazole (Protonix) - [**2151-3-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-3-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-7**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 91 (91 - 111) bpm
   BP: 134/70(94) {104/57(75) - 140/76(100)} mmHg
   RR: 20 (20 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                 11,444 mL
                                                                  3,756 mL
   PO:
             TF:
   IVF:
                                                                  6,344 mL
                                                                  3,731 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                  1,740 mL
   Urine:
                                                                  2,175 mL
                                                                  1,740 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,269 mL
                                                                  2,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 252 (252 - 252) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.43/32/170/21/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, mlid periorbital edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular:
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: not moving extreme spont, only to withdrawal, Tone: Not
   assessed, tracks somewhat, shrugs shoulders, purposeful withdrawal of 4
   extrem
   Labs / Radiology
   10.9 g/dL
   138 K/uL
   90 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.7 mEq/L
   27 mg/dL
   118 mEq/L
   146 mEq/L
   30.3 %
   19.1 K/uL
        [image002.jpg]
                             [**2151-3-6**]  04:01 PM
                             [**2151-3-6**]  04:06 PM
                             [**2151-3-6**]  07:40 PM
                             [**2151-3-6**]  07:59 PM
                             [**2151-3-6**]  11:45 PM
                             [**2151-3-6**]  11:56 PM
                             [**2151-3-7**]  03:10 AM
                             [**2151-3-7**]  03:28 AM
                             [**2151-3-7**]  08:59 AM
                             [**2151-3-7**]  09:15 AM
   WBC
   20.4
   19.1
   Hct
   32.5
   30.3
   Plt
   162
   138
   Cr
   1.9
   1.8
   1.7
   1.7
   1.5
   TropT
   0.02
   TCO2
   18
   15
   14
   19
   22
   Glucose
   134
   179
   190
   191
   90
   Other labs: PT / PTT / INR:11.9/40.8/1.0, CK / CKMB /
   Troponin-T:6295/64/0.02, Amylase / Lipase:326/117, Lactic Acid:1.4
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: wbc 37 --> 19
   Hct 38 --> 30
   AG 5
   Lactate 3.3 --> 1.4
   Creat 2.7 --> 1.5
   Microbiology: c diff negative
   MRSA screen pending
   U + B cultures pending
   CXR
 ETT high, lung fields clear
   Assessment and Plan
   66 yr old with stage 4 NSCLC presenting with DKA
   Stage 4 lung ca
   - would favor hospice level care at this point
   - overall dismal prognosis was discussed with son [**Name (NI) 322**] (HCP)
   - will ask for palliative care consult in AM
   - family not ready for withdrawal of care yet but very concerned about
   patient's comfort
   DKA
   - improving, remains on insulin drip, gap closed
   - keep hydrated especially for increased CK
   Electrolyte abnormalities
   - improved
    Pancreatitis
   - lipase improving 818 --> 117, NPO
   - mesenteric stranding on OSH abd CT
   Altered MS
   - most likely due to brain mets ? hemorrhagic in addition to DKA, renal
   failure
   Access
   - femoral line inserted in our ED
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2151-3-6**] 07:15 AM
   Multi Lumen - [**2151-3-6**] 07:15 AM
   20 Gauge - [**2151-3-6**] 07:16 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Son updated
   [**Name2 (NI) 129**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2151-03-08 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Advanced ETT/ Tolerated PS trial [**9-13**] well -> now on [**4-13**]
   - **Needs palliative care consult in AM**
   - Hypernatremia worsening, increased 1/2 NS to 225 cc/hr-> D5W now
   - CK improving
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Pruritis;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Dextrose 50% - [**2151-3-7**] 07:30 AM
   Pantoprazole (Protonix) - [**2151-3-7**] 08:00 AM
   Hydralazine - [**2151-3-7**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2151-3-8**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-3-8**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 95 (88 - 107) bpm
   BP: 150/74(105) {129/59(87) - 155/76(106)} mmHg
   RR: 21 (19 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  6,433 mL
                                                                  1,568 mL
   PO:
             TF:
   IVF:
                                                                  6,408 mL
                                                                  1,568 mL
   Blood products:
   Total out:
                                                                  4,400 mL
                                                                  1,415 mL
   Urine:
                                                                  4,400 mL
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,033 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 322 (296 - 440) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/31/164/23/-2
   Ve: 9 L/min
   PaO2 / FiO2: 410
   Physical Examination
   GEN: Intubated, sedated. Opens eyes to voice and tracks.
   HEENT: Pupils 3mm->2mm bilaterally. Anicteric
   CV: Regular. No murmurs.
   PULM: Anteriorly clear.
   ABD: Soft. No apparent tenderness.
   EXT: Warm. No edema.
   NEURO: Pupils as above. Withdraws all extremitites to noxious stimuli.
   Labs / Radiology
   132 K/uL
   11.3 g/dL
   129 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.7 mEq/L
   21 mg/dL
   119 mEq/L
   149 mEq/L
   32.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2151-3-6**]  11:45 PM
                             [**2151-3-6**]  11:56 PM
                             [**2151-3-7**]  03:10 AM
                             [**2151-3-7**]  03:28 AM
                             [**2151-3-7**]  08:59 AM
                             [**2151-3-7**]  09:15 AM
                             [**2151-3-7**]  01:08 PM
                             [**2151-3-7**]  04:18 PM
                             [**2151-3-8**]  02:03 AM
                             [**2151-3-8**]  02:16 AM
   WBC
   19.1
   17.8
   Hct
   30.3
   32.7
   Plt
   138
   132
   Cr
   1.7
   1.7
   1.5
   1.4
   1.2
   TCO2
   14
   19
   22
   20
   21
   Glucose
   190
   191
   90
   149
   129
   Other labs: PT / PTT / INR:11.8/41.8/1.0, CK / CKMB /
   Troponin-T:3418/64/0.02, ALT / AST:72/124, Alk Phos / T Bili:95/0.2,
   Amylase / Lipase:326/43, Differential-Neuts:91.3 %, Lymph:5.1 %,
   Mono:2.4 %, Eos:1.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL,
   LDH:439 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   66F with history of lung cancer, now presenting with DKA/HHS and ARF
   after being found down.
   1. Altered mental status / Brain mets.  Unclear cause for initial
   altered mental status
 DKA/HHS vs fall vs brain edema/hemorrhage vs
   CVA.  Seen by neurosurgery; appreciate their recs.  Unclear to what
   extent her neurologic function will improve.  Responsive and able to
   follow commands.
   - Monitor neurologic exam
   - Cont Decadron 4mg Q6H IV
   - Will discuss with Nsurg need for 48H repeat head CT today given
   extubation today
   - Well today on PS 5/5, plan for extubation.
   - Palliative care consult called
   2. Metabolic acidosis / DKA/HHS.  Resolved.  Degree of hyperglycemia
   points more towards HHS though did have ketosis as well.  BS have
   improved to normal range and gap resolved.
   - will transition to sq insulin, plan d/c insulin gtt today
   - [**Month (only) 202**] ivf.
   - K and other electrolyte repletion
   - recheck lytes this afternoon.
   .
   3. Acute renal failure.  Likely from volume depletion.  Has responded
   to IVF.  CK peaked at ~7800 and is now trending downward, today 3418.
   Received aggressive IVF resuscitation overnight to protect kidneys and
   is maintaining a good urine output with improvement in her creatinine.
    Lytes nml at this point.
   - will decrease IVF
   .
   4. Elevated lipase / pancreatitis.  Lipase >800 with CT showing some
   mesenteric stranding consistent with pancreatitis.  Unclear
   etiology for this but may have contributed to hyperglycemia.  Lipase
   down to ~100 at 3 am.
   - cont. to trend, expect to resolve
   .
   5. Elevated CK.  Not severe. Given negative trop, most likely due to
   immobility.
   - Cont to trend.  Improving at this point.
   .
   6. Hypotension.  Was on levophed upon arrival to unit; but quickly
   weaned off.  Possibly related to sedation.
   - Try to use minimal sedation
   - IVF
   .
   7. Hypernatremia. Will use 1/2NS as IVF for now.
   .
   8.  CVL.  Will plan to d/c central femoral line today once stable
   post-extubation.
   .
   FEN: IVF; NPO for now, will evaluate once extubated for possible PO
   PPX: SC heparin
   ACCESS: Femoral line ([**3-6**]), A-line ([**3-6**]), and PIV x 2 ([**3-6**])
   CODE: DNR, no CPR, pressors, or dialysis.  Intubated
   Communication: Son
   Dispo: ICU for now.  Will see if patient becomes alert enough to
   consider extubation with goal of getting patient to hospice and having
   a little more time to spend with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-3-6**] 07:15 AM
   Multi Lumen - [**2151-3-6**] 07:15 AM
   20 Gauge - [**2151-3-6**] 07:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2151-03-09 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-3-8**] 02:00 PM
   - Extubated without complications
   - Insulin gtt d/c, started on Hum 75/25 [**Hospital1 **] and HISS
   - Palliative care consult called, not able to see patient yesterday
   - Code status clarified with patient, would want to be reintubated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Pruritis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-3-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-3-9**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Patient reports thirst and dry mouth
   Flowsheet Data as of  [**2151-3-9**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 88 (88 - 111) bpm
   BP: 135/89(105) {111/67(92) - 176/106(125)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,551 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                  2,551 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  4,840 mL
                                                                    480 mL
   Urine:
                                                                  4,840 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,289 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (420 - 480) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.39/38/95.[**Numeric Identifier **]/27/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: NAD, alert
   HEENT: PERRL
   CV: Regular, nl S1, nl S2, no M/R/G
   PULM: Anteriorly clear.
   ABD: BS+, Soft. NT, ND
   EXT: Warm. No edema.
   NEURO: Responds appropriately to all questions. Srength [**4-13**] at BUE. RLE
   with 4/5 strength. LLE with 5/5 strength
   Labs / Radiology
   119 K/uL
   11.3 g/dL
   176 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   21 mg/dL
   115 mEq/L
   148 mEq/L
   32.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2151-3-7**]  08:59 AM
                             [**2151-3-7**]  09:15 AM
                             [**2151-3-7**]  01:08 PM
                             [**2151-3-7**]  04:18 PM
                             [**2151-3-8**]  02:03 AM
                             [**2151-3-8**]  02:16 AM
                             [**2151-3-8**]  12:15 PM
                             [**2151-3-8**]  02:58 PM
                             [**2151-3-8**]  03:12 PM
                             [**2151-3-9**]  03:03 AM
   WBC
   17.8
   13.8
   Hct
   32.7
   32.6
   Plt
   132
   119
   Cr
   1.5
   1.4
   1.2
   1.1
   1.1
   TCO2
   22
   20
   21
   25
   24
   Glucose
   90
   149
   129
   232
   176
   Other labs: PT / PTT / INR:12.0/29.5/1.0, CK / CKMB /
   Troponin-T:1405/64/0.02, ALT / AST:71/73, Alk Phos / T Bili:103/0.2,
   Amylase / Lipase:326/74, Differential-Neuts:87.6 %, Lymph:8.7 %,
   Mono:2.8 %, Eos:0.8 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:432 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   66F with history of lung cancer, presented with DKA/HHS and ARF after
   being found down.
   #  Altered mental status / Brain mets:
   Unclear cause for initial altered mental status
 DKA/HHS vs fall vs
   brain edema/hemorrhage vs CVA. Unclear to what extent her neurologic
   function will improve.  Responsive and able to follow commands this AM.
   Strength essentially equal in upper extremities; however, question of
   RLE decrease in strength.
   - Monitor neurologic exam
   - Cont Decadron 4mg Q6H IV with switch to PO once cleared to eat.
   - Dicontinued free water via IV due to concern for cerebral edema.
   - Will discuss with Nsurg need for repeat head CT given patient
   discussion with ICU team that she does not desire further chemo or
   radiation treatment
   - Palliative care consult following and appreciate their input
   # Hypernatremia:
   Stable today with sodium of 148. Avoiding hypotonic fluids given
   cerebral edema concerns.
   - Continue to monitor. Encourage free water with PO intake.
   #  Diabetes:
   Presented with question of DKA vs. HHS, though AG closed now and
   patient is off insulin drip. Being managed on
 doses of home insulin
   regimen until patient able to take PO.
   - Continue insulin Humalog 75/25 [**Hospital1 **] and HISS
   - QID fingersticks and diabetic diet once eating
   #  Acute kidney injury:
   Likely from volume depletion.  Has responded to IVF.  CK peaked at
   ~7800 and is now trending downward, today 3418.  Received aggressive
   IVF resuscitation overnight to protect kidneys and is maintaining a
   good urine output with improvement in her creatinine.  Lytes nml at
   this point.
   - will decrease IVF
   # Elevated lipase / pancreatitis at presentation:
   Lipase >800 with CT showing some mesenteric stranding consistent with
   pancreatitis at presentation. Unclear etiology for this but may have
   contributed to hyperglycemia.  Lipase down to 74 today. Has been NPO
   while in MICU, and that likely therapeutic for any pancreatitis at
   presentation. No abdominal pain this AM.
   - Monitor for any increase in abdominal pain once back on PO diet.
   #  Elevated CK:
   Trending down and ~1400 this AM. Given negative trop, most likely due
   to immobility.
   - Cont to trend
   ICU Care
   Nutrition: PO trial and removal of NG tube if successful.
   Glycemic Control:  Humalog 75/25 standing and HISS
   Lines:
   Arterial Line
 (discontinue today)
   Multi Lumen, Femoral
 (discontinue today)
   20 Gauge - [**2151-3-6**] 07:16 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  PPI PO once taking PO
   VAP:  Extubated
   Communication:  Son and patient
   Code status: DNR (do not resuscitate)
 ongoing discussion about
   whether or not to intubate if declining resp status.
   Disposition: Likely to floor today.